US08580841B2
Step B: Preparation of 2-(7-(4-(Methylsulfonyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
To the stirred solution of ethyl 2-(7-(4-(methylsulfonyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (40 mg, 0.094 mmol) in dioxane was added 1M LiOH aqueous solution (0.47 mL, 0.47 mmol). The reaction mixture was stirred at room temperature for 24 h. The solvent was partly removed, diluted with water, and acidified with HCl solution. The pinkish solid was collected and dried to give the title compound (26 mg). LCMS m/z=400.4 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 2.04-2.08 (m, 1H), 2.35 (dd, J=16.0 and 9.0 Hz, 1H), 2.63-2.75 (m, 4H), 3.20 (s, 3H), 3.45-3.50 (m, 1H), 5.21 (s, 2H), 6.73 (dd, J=8.7 and 2.4 Hz, 1H), 6.92 (d, J=2.4 Hz, 1H), 7.20 (d, J=8.7 Hz, 1H), 7.71 (d, J=8.3 Hz, 2H), 7.92 (d, J=8.3 Hz, 2H), 10.47 (s, 1H), 12.18 (s, 1H).

reactant | ethyl 2-(7-(4-(methylsulfonyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.094 mmol, 40 mg | CS(=O)(=O)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1 | C23H25NO5S
reactant | LiOH | 0.47 mmol, 1M, 0.47 mL | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(7-(4-(Methylsulfonyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 26 mg | CS(=O)(=O)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1 | C21H21NO5S
